US04219660
Preparation of 2-(3-Nitro-2-methyl-1-propenyl)-1,3-dioxolane
0.1 Mol of 4-nitro-3-methyl-2-butenal and 0.1 Mol of ethyleneglycol is benzene were refluxed for 1 hour, collecting 0.1 Mol of water in a Dean Stark trap. After cooling the reaction mixture it was quenched in a solution of sat. Sodiumbicarbonate and extracted several times with benzene. The reaction product was purified by Kugelrohr distillation followed by chromotography over silica gel. The product was obtained as a yellow oil.

reactant | 4-nitro-3-methyl-2-butenal | 0.1 Mol | [N+](=O)([O-])CC(=CC=O)C | C5H7NO3
reactant | ethyleneglycol | 0.1 Mol | C(CO)O | C2H6O2
reactant | water | 0.1 Mol | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(3-Nitro-2-methyl-1-propenyl)-1,3-dioxolane | [N+](=O)([O-])CC(=CC1OCCO1)C | C7H11NO4
